US08242125B2
47-G. (±)-4-(1H-Indol-5-yloxy)-8-methyl-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester
To a solution of 4-chloro-8-methyl-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester (228 mg, 0.80 mmol), 5-hydroxyindole (139 mg, 1.05 mmol) and MeCN (5 mL) is added DBU (0.15 mL, 1.05 mmol). The resulting moisture is heated at 80° C. for 4 h. The reaction is then concentrated in vacuo and the residue separated via FCC (5-60% EtOAc/heptane). MS (ESI) m/z 381.1 (M+H).

reactant | 4-chloro-8-methyl-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester | 0.80 mmol, 228 mg | C(C)(C)(C)OC(=O)N1C(C=2N=CN=C(C2CC1)Cl)C | C13H18ClN3O2
reactant | 5-hydroxyindole | 1.05 mmol, 139 mg | OC=1C=C2C=CNC2=CC1 | C8H7NO
reactant | DBU | 1.05 mmol, 0.15 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | MeCN | 5 mL | CC#N | C2H3N
product | (±)-4-(1H-Indol-5-yloxy)-8-methyl-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(C=2N=CN=C(C2CC1)OC=1C=C2C=CNC2=CC1)C | C21H24N4O3
